US07825253B2
4-Fluoro-N-methyl-N-{2-[(5-methyl-furan-2-ylmethyl)-amino]-quinolin-5-yl}-benzenesulfonamide
The title compound, MS: m/e=426.1 (M+H+), was prepared from N5-methyl-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine and 4-fluorobenzene sulphonylchloride as described in example 39.

reactant | N5-methyl-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | CNC=1C=2C=CC(=NC2C=CC1)NCC=1OC(=CC1)C | C16H17N3O
reactant | 4-fluorobenzene sulphonylchloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | 4-Fluoro-N-methyl-N-{2-[(5-methyl-furan-2-ylmethyl)-amino]-quinolin-5-yl}-benzenesulfonamide | FC1=CC=C(C=C1)S(=O)(=O)N(C1=C2C=CC(=NC2=CC=C1)NCC=1OC(=CC1)C)C | C22H20FN3O3S
